US08383827B2
Step 1: Synthesis of N-(2-(5-bromopyridin-3-yl)propan-2-yl)ethanesulfonamide
A mixture of 1-(5-bromo-pyridin-3-yl)-ethanone (200 mg, 1.000 mmol), ethanesulfonamide (136 mg, 1.250 mmol) and titanium(IV) isopropoxide (586 μL, 2.0 mmol) in toluene (20 mL) was heated to reflux for 8 h. After concentration, the residue was dissolved in THF (5 mL). A solution of methylmagnesium bromide (1000 μl, 3.00 mmol) was added dropwise at −50° C. The resulting mixture was slowly warmed up to room temperature over a course of 2 h. The mixture was stirred at this temperature overnight and quenched with NH4Cl solution. After filtration, wash with CH2Cl2 and concentration, the residue was purified by flash column (Ethyl acetate/heptane, v/v, 10% to 50%) and yielded a yellow oil (35 mg). ESI-MS m/z: 309.1 [M+1]+, Retention time=1.22 min. 1H NMR (400 MHz, CDCl3): δ 1.43 (t, J=7.4 Hz, 3H), 1.84 (s, 6H), 2.98 (q, J=7.4 Hz, 2H), 5.07 (brs, 1H), 8.04 (s, 1H), 8.66 (s, 1H), 8.77 (s, 1H).

reactant | 1-(5-bromo-pyridin-3-yl)-ethanone | 1.000 mmol, 200 mg | BrC=1C=C(C=NC1)C(C)=O | C7H6BrNO
reactant | ethanesulfonamide | 1.250 mmol, 136 mg | C(C)S(=O)(=O)N | C2H7NO2S
reactant | methylmagnesium bromide | 3.00 mmol, 1000 μl | C[Mg]Br
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium(IV) isopropoxide | 2.0 mmol, 586 μL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | N-(2-(5-bromopyridin-3-yl)propan-2-yl)ethanesulfonamide | 35 mg | BrC=1C=C(C=NC1)C(C)(C)NS(=O)(=O)CC | C10H15BrN2O2S
